US08609657B2
Ethyl 2-[6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3-oxazole-5-carboxylate
In 4 batches, tetrakis(triphenylphosphine)palladium(0) (3.37 g, 2.92 mmol), ethyl 2-chloro-1,3-oxazole-5-carboxylate (6.65 g, 37.9 mmol, available from Apollo Scientific) and copper(I) iodide (1.11 g, 5.83 mmol) were added to a solution of 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole (13.28 g, 29.2 mmol) in N,N-dimethylformamide (52 ml). In 3 of the batches, tetrakis(triphenylphosphine)palladium(0) (1.03 g, 0.89 mmol), ethyl 2-chloro-1,3-oxazole-5-carboxylate (2.03 g, 11.59 mmol) and copper(I) iodide (0.34 g, 1.78 mmol) were added to a solution of 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole (4.06 g, 8.91 mmol) in N,N-dimethylformamide (16 ml). In the fourth batch, tetrakis(triphenylphosphine)palladium(0) (0.28 g, 0.24 mmol), ethyl 2-chloro-1,3-oxazole-5-carboxylate (0.55 g, 3.14 mmol) and copper(I) iodide (0.09 g, 0.48 mmol) were added to a solution of 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole (1.10 g, 2.42 mmol) in N,N-dimethylformamide (4 ml). Each batch was heated and stirred at 100° C. under microwave irradiation for 30 min. The mixtures were allowed to cool to RT and the combined precipitated product suspended in diethyl ether and collected by filtration, washing with further diethyl ether then drying in a vacuum oven for 72 h. Approximately 5.2 g of the resultant solid was dissolved in dichloromethane and passed through Celite, eluting with further dichloromethane. The solvent was evaporated in vacuo to give the title compound as a pale orange solid (4.95 g).

reactant | ethyl 2-chloro-1,3-oxazole-5-carboxylate | 37.9 mmol, 6.65 g | ClC=1OC(=CN1)C(=O)OCC | C6H6ClNO3
reactant | 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole | 29.2 mmol, 13.28 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)[Sn](C)(C)C
reactant | ethyl 2-chloro-1,3-oxazole-5-carboxylate | 11.59 mmol, 2.03 g | ClC=1OC(=CN1)C(=O)OCC | C6H6ClNO3
reactant | 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole | 8.91 mmol, 4.06 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)[Sn](C)(C)C
reactant | ethyl 2-chloro-1,3-oxazole-5-carboxylate | 3.14 mmol, 0.55 g | ClC=1OC(=CN1)C(=O)OCC | C6H6ClNO3
reactant | 6-chloro-1-(phenylsulfonyl)-4-(trimethylstannanyl)-1H-indazole | 2.42 mmol, 1.10 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)[Sn](C)(C)C
solvent | N,N-dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.92 mmol, 3.37 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 5.83 mmol, 1.11 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.89 mmol, 1.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 1.78 mmol, 0.34 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.24 mmol, 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.48 mmol, 0.09 g | [Cu]I
product | Ethyl 2-[6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3-oxazole-5-carboxylate | 4.95 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)C(=O)OCC | C19H14ClN3O5S
